US06562811B1
To a solution of 3-(benzyloxy)-2-thiophenecarboxylic acid (3.00 g, 12.81 mmol) in CH2Cl2 (30 mL) were added oxalyl chloride (1.34 mL, 15.4 mmol) and DMF (0.05 mL). The mixture was stirred at room temperature for 1 hr, and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (10 mL). Then the solution was added to a mixture of N,O-dimethylhydroxyamine hydrochloride (1.50 g, 15.37 mmol) and K2CO3 (3.54 g, 25.62 mmol) in ethyl acetate (30 mL) and water (30 mL) at 0° C. The mixture was vigorously stirred at 0° C. for 0.5 hrs, and at room temperature for 1.5 hrs. The organic phase was separated, washed with 1 N HCl, saturated NaHCO3, and brine, dried over Na2SO4, filtered, and evaporated. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=2/1) to give 3-(benzyloxy)-N-methoxy-N-methyl-2-thiophenecarboxamide as a pale yellow solid (3.473 g, yield; 98%).

reactant | 3-(benzyloxy)-2-thiophenecarboxylic acid | 12.81 mmol, 3.00 g | C(C1=CC=CC=C1)OC1=C(SC=C1)C(=O)O | C12H10O3S
reactant | oxalyl chloride | 15.4 mmol, 1.34 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethylhydroxyamine hydrochloride | 15.37 mmol, 1.50 g | Cl.CNOC
reactant | K2CO3 | 25.62 mmol, 3.54 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | DMF | 0.05 mL | CN(C)C=O | C3H7NO
product | 3-(benzyloxy)-N-methoxy-N-methyl-2-thiophenecarboxamide | 3.473 g, yield; 98% | C(C1=CC=CC=C1)OC1=C(SC=C1)C(=O)N(C)OC | C14H15NO3S
